US04371644
ethylene glycol bis[2-hydroxy-3-(3,7,7,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propyl]ether (Compound No. 340)
To 50 ml of n-octanol were added 5.0 g of 3,7,7,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 1.5 g of ethylene glycol bis(2,3-epoxypropyl) ether; the mixture was then reacted as described in Example 1 to give the desired Compound No. 340 in the form of a white powder. The compound had an Rf value of 0.54 on thin-layer chromatography on silica gel developed with a 20:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine.

reactant | 3,7,7,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 5.0 g | CN1C(NC2(C1=O)CC(NC(C2)(C)C)(C)C)=O | C12H21N3O2
reactant | ethylene glycol bis(2,3-epoxypropyl) ether | 1.5 g | O1C(COCCOCC2CO2)C1 | C8H14O4
solvent | n-octanol | 50 ml | C(CCCCCCC)O | C8H18O
product | ethylene glycol bis[2-hydroxy-3-(3,7,7,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propyl]ether | OC(COCCOCC(CN1C(CC2(C(N(C(N2)=O)C)=O)CC1(C)C)(C)C)O)CN1C(CC2(C(N(C(N2)=O)C)=O)CC1(C)C)(C)C | C32H56N6O8
